US08895545B2
(S)-tert-butyl 7-bromo-3-methyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepine-4(5H)-carboxylate
To a solution of (S)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine (166 mg, 0.69 mmol) in MeCN (10 mL) and triethylamine (144 uL, 1.03 mmol) was added di-tert-butyl dicarbonate (151 mg, 0.69 mmol) and the reaction was stirred at room temperature for 1 h. The reaction mixture was concentrated and re-solvated in dlchloromethane (20 mL), washed with water (15 mL), dried over sodium sulfate and concentrated to give the title compound as a white solid (1.80 mg, 77%): 1H NMR (400 MHz, CDCl3) δ7.98 (s, 1H), 7.45 (s, 1H), 4.38-4.34 (2s, 2H), 4.23 (s, 1H), 6.33-3.61 (m, 2H), 3.26-3.13 (m, 1H), 1.35 (s, 9H), 1.36 (d, J=6.4 Hz, 3H).

reactant | (S)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine | 0.69 mmol, 166 mg | BrC1=CC2=C(NC[C@@H](NC2)C)N=C1 | C9H12BrN3
reactant | triethylamine | 1.03 mmol, 144 uL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.69 mmol, 151 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 10 mL | CC#N | C2H3N
product | (S)-tert-butyl 7-bromo-3-methyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepine-4(5H)-carboxylate | 1.80 mg, 77% | BrC1=CC2=C(NC[C@@H](N(C2)C(=O)OC(C)(C)C)C)N=C1 | C14H20BrN3O2
